US05874457
2-(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl-1,2-dihydro-imidazo[1,5-a]indol-3-one.
To a stirred solution of 1,2-dihydro-imidazo[1,5-a]indol-3-one (3 g; 0.0174 moles) in 50 ml of anhydrous dimethylformamide kept under nitrogen atmosphere, 50% NaH (0.84 g; 0.0174 moles) is added. The solution is stirred for 1 hour at 60° C.; then, at room temperature, 4-chloromethyl-5-methyl-1-triphenylmethyl-1H-imidazole (6.5 g; 0.0174 moles) is added. The reaction mixture is stirred for 6 hours at 70° C., then cooled, poured into water and extracted with methylene chloride.

reactant | 1,2-dihydro-imidazo[1,5-a]indol-3-one | 0.0174 moles, 3 g | C1NC(N2C1=CC=1C=CC=CC21)=O | C10H8N2O
reactant | NaH | 0.0174 moles, 0.84 g | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-1-triphenylmethyl-1H-imidazole | 0.0174 moles, 6.5 g | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl-1,2-dihydro-imidazo[1,5-a]indol-3-one | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN1C(N2C(=CC=3C=CC=CC23)C1)=O | C34H28N4O
